data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2051,2276,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13](=[O:14])[O:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH:25]#[N+:26][C-:27]([CH3:28])[C:29]#[N:30]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13](=[O:14])[O:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[CH:25]=[N:26][C:27]2([CH3:28])[C:29]#[N:30],water,298.15,10.187686784238752,-64.02060087965455
2328,2586,[CH3:15][N+:16](=[C:17]([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C-:26]([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:26]([C:27]#[N:28])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:16]([CH3:15])[C:17]2([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,26.150292519198302,-6.363637718577577
424,462,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2.[N:12]#[N+:13][CH-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[N:12]=[N:13][CH:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,23.44856348261837,-10.4258775579695
3472,3953,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[N+:13]([CH3:14])[C-:15]([CH3:16])[CH3:17]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:15]([CH3:16])([CH3:17])[N:13]([CH3:14])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,34.692818937379165,-17.670969586889644
4349,4970,[CH3:9][CH:10]=[N+:11]([CH3:12])[C-:13]([C:14](=[O:15])[NH:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:14](=[O:15])[NH:16][CH3:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:11]([CH3:12])[CH:10]1[CH3:9],water,298.15,14.687204096147182,-29.02596986751262
3232,3649,[CH3:10][C:11]#[N+:12][N-:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:13]([C:14]([CH3:15])=[O:16])[N:12]=[C:11]1[CH3:10],water,298.15,24.65644258032403,-29.546063516417004
1329,1458,[CH3:15][CH:16]=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([O:11][CH3:12])[O:13][CH3:14]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([O:11][CH3:12])([O:13][CH3:14])[C:19]([C:20]#[N:21])([C:22](=[O:23])[NH:24][CH3:25])[N:17]([CH3:18])[CH:16]1[CH3:15],water,298.15,29.013046370375427,-7.458987385904593
221,241,[CH3:12][CH:13]=[NH+:14][N-:15][C:16]([CH3:17])=[O:18].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:13]([CH3:12])[NH:14][N:15]2[C:16]([CH3:17])=[O:18],water,298.15,27.10486760397165,-1.6423635677891235
2497,2774,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([Cl:15])([Cl:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[C-:25]([CH3:26])[N+:27]([CH3:28])=[CH:29][C:30]([CH3:31])=[O:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([Cl:15])([Cl:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[CH:29]([C:30]([CH3:31])=[O:32])[N:27]([CH3:28])[C:25]2([C:23]([O:22][CH3:21])=[O:24])[CH3:26],water,298.15,20.48443402056045,-38.16261965067034
3169,3576,[CH3:9][C:10]#[N+:11][CH-:12][C:13](=[O:14])[O:15][CH3:16].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[CH:12]([C:13](=[O:14])[O:15][CH3:16])[N:11]=[C:10]1[CH3:9],water,298.15,17.46494769249643,-40.05373438077041
4035,4620,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c:15]1[nH+:16][c-:17]([CH3:18])[c:19](=[O:20])[o:21]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]1([CH3:18])[NH:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[O:21][C:19]1=[O:20],water,298.15,22.18997680692637,-4.674703188791804
2532,2812,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([Cl:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C:24]([C:25]#[N:26])=[N+:27]([CH3:28])[N-:29][C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([Cl:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([NH:21][CH3:20])=[O:23])([C:25]#[N:26])[N:27]([CH3:28])[N:29]2[C:30](=[O:31])[O:32][CH3:33],water,298.15,11.201914392372611,-39.25202230524121
